US07157447B2
(4-Fluoro-2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)phenyl)methanamine hydrochloride.
Intermediate 75, 4-fluoro-2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)benzonitrile (1.37 g, 5.4 mmol) was dissolved in ethanol (120 mL). To this was added 1N HCl (20 mL) and a catalytic amount of 10% Pd—C. The mixture was shaken under hydrogen at 55 psi for 4 h then filtered through Celite and concentrated to give the title compound as white solid (1.58 g, 100% yield). 1H-NMR (300 MHz, CD3OD) δ ppm: 7.61 (1H, dd, J=8.4, 6.2 Hz), 7.38 (1H, dd, J=9.3, 2.7 Hz), 7.28 (1H, td, J=8.2, 2.7 Hz), 7.26 (2H, dd, J=21.4, 13.7 Hz), 3.93–3.84 (1H, m), 3.50–3.41 (3H, m), 2.40–2.31 (2H, m), 2.04–1.96 (2H, m). LCMS [M+H]+ calcd for C11H16N2O6FS: 259.087. found: 259.24.

reactant | 4-fluoro-2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)benzonitrile | 5.4 mmol, 1.37 g | FC1=CC(=C(C#N)C=C1)N1S(CCCC1)(=O)=O | C11H11FN2O2S
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | (4-Fluoro-2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)phenyl)methanamine hydrochloride | 1.58 g, 100% yield | Cl.FC1=CC(=C(C=C1)CN)N1S(CCCC1)(=O)=O | InChI=1S/C11H15FN2O2S.ClH/c12-10-4-3-9(8-13)11(7-10)14-5-1-2-6-17(14,15)16;/h3-4,7H,1-2,5-6,8,13H2;1H
